US05866568
n-Butyl lithium (31.3 ml of a 1.6M solution in hexane) was added to a stirred solution of 3-bromopyridine (4.8 ml) and trimethyl borate (6.2 ml) in dry THF (100 ml) at a rate such that the temperature did not exceed -65° C. The mixture was allowed to warm to ambient temperature over 16 hours and was filtered. The solid was washed with ether, combined with more solid obtained from the filtrate and rewashed with ether to give dimethoxy-(3-pyridyl)borane (3.5 g) as a solid, 1H NMR (CD3OD): 3.4 (s, 6 H), 7.2 (m, 1 H), 7.9 (m, 1 H), 8.2 (dd, 1 H), 8.6 (s, 1 H); mass spectrum (+ve CI): 152 (M+H)+.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 3-bromopyridine | 4.8 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | trimethyl borate | 6.2 ml | B(OC)(OC)OC | C3H9BO3
reactant | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | dimethoxy-(3-pyridyl)borane | 3.5 g | COB(C=1C=NC=CC1)OC | C7H10BNO2
